US05153214
A solution of 1.0 g (3.17 mmol) of 5-[3-(tetrahydropyranyloxy)propyl]valeramide in 5 ml tetrahydrofuran is added dropwise to a suspension of 0.481 g (12.68 mmol) lithium aluminium hydride in 20 ml dry tetrahydrofuran. The reaction mixture is refluxed for 2.5 h, cooled in an ice-bath and quenched by the addition of 0.5 ml water, 0.5 ml 15% aqueous sodium hydroxide followed by 1.5 ml water. The mixture is stirred for 15 min and filtered, washed and then subjected to evaporation to give 6-amino-2-[3-(tetrahydropyranyloxy)propyl]-hexan-1-ol.

reactant | 5-[3-(tetrahydropyranyloxy)propyl]valeramide | 3.17 mmol, 1.0 g | O1C(CCCC1)OCCCCCCCC(=O)N | C13H25NO3
reactant | lithium aluminium hydride | 12.68 mmol, 0.481 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 6-amino-2-[3-(tetrahydropyranyloxy)propyl]-hexan-1-ol | NCCCCC(CO)CCCOC1OCCCC1 | C14H29NO3
